US09126998B2
rac-N-(2-Amino-4-hydroxy-2-methylbutyl)-8-[(2,6-difluorobenzyl)oxy]-2,6-dimethylimidazo[1,2-a]pyridine-3-carboxamide
Under argon, 295 mg (0.52 mmol) of rac-N-[2-amino-4-(benzyloxy)-2-methylbutyl]-8-[(2,6-difluorobenzyl)oxy]-2,6-dimethylimidazo[1,2-a]pyridine-3-carboxamide Example 262 were initially charged in 5.4 ml of ethanol, 56 mg of Pd/carbon (10%) were added and the mixture was hydrogenated under atmospheric pressure at room temperature for 6.5 h. The reaction mixture was left under hydrogen overnight. The reaction mixture was applied to silica gel, concentrated and purified by silica gel chromatography (mobile phase: dichloromethane/2N ammonia in methanol 10/1 isocratic). This gave 95 mg of the target compound (42% of theory).

reactant | rac-N-[2-amino-4-(benzyloxy)-2-methylbutyl]-8-[(2,6-difluorobenzyl)oxy]-2,6-dimethylimidazo[1,2-a]pyridine-3-carboxamide | 0.52 mmol, 295 mg | NC(CNC(=O)C1=C(N=C2N1C=C(C=C2OCC2=C(C=CC=C2F)F)C)C)(CCOCC2=CC=CC=C2)C | C29H32F2N4O3
solvent | ethanol | 5.4 ml | C(C)O | C2H6O
catalyst | Pd carbon | 56 mg | [Pd].[C]
product | rac-N-(2-Amino-4-hydroxy-2-methylbutyl)-8-[(2,6-difluorobenzyl)oxy]-2,6-dimethylimidazo[1,2-a]pyridine-3-carboxamide | NC(CNC(=O)C1=C(N=C2N1C=C(C=C2OCC2=C(C=CC=C2F)F)C)C)(CCO)C | C22H26F2N4O3
